US04568688
1-Acetimido-2,3,3a,8-tetrahydro-1H-pyrazolo[5,1-a]isoindole hydrochloride
3.1 g (0.019 mol) of 2,3,3a,8-tetrahydro-1H-pyrazolo[5,1-a]isoindole and 3.3 g (0.03 mol) of ethyl acetimidate hydrochloride in 100 ml of absolute ethanol are stirred at room temperature for 15 hours. After removing the ethanol, the residue of 1-acetimido-2,3,3a,8-tetrahydro-1H-pyrazolo[5,1-a]isoindole hydrochloride is crystallised using ethyl acetate/isopropanol. Melting point 255°-257° C. (decomposition).

reactant | 2,3,3a,8-tetrahydro-1H-pyrazolo[5,1-a]isoindole | 0.019 mol, 3.1 g | N1CCC2N1CC=1C=CC=CC21 | C10H12N2
reactant | ethyl acetimidate hydrochloride | 0.03 mol, 3.3 g | Cl.C(C)(OCC)=N
reactant | ethanol | 100 ml | C(C)O | C2H6O
product | 1-Acetimido-2,3,3a,8-tetrahydro-1H-pyrazolo[5,1-a]isoindole hydrochloride | Cl.C1(C(N1N1CCC2N1CC=1C=CC=CC21)=O)=O | InChI=1S/C12H11N3O2.ClH/c16-11-12(17)15(11)14-6-5-10-9-4-2-1-3-8(9)7-13(10)14;/h1-4,10H,5-7H2;1H
